US04968678
E. Methyl 4-(2-hydroxyethyl)-2-pyridinecarboxylate
A 1 l. round bottom flask was charged with 18.24 g (0.096 mol) of 4-[2-(acetyloxy)ethyl]-2-pyridinecarbonitrile and 380 ml of methanol. To the reaction mixture was added 96 ml of 5N aqueous potassium hydroxide and the reaction mixture was refluxed overnight with stirring. The reaction mixture was cooled and concentrated under vacuum. To the residue was added methanol saturated with hydrochloric acid (400 ml), and the resulting mixture was heated to reflux for 30 minutes, cooled and concentrated under vacuum. To the residue was added 400 ml of methanol saturated with hydrochloric acid. The mixture was refluxed overnight, cooled to room temperature and concentrated under vacuum. The mixture was partitioned between methylene chloride and 20% by weight potassium bicarbonate in water. The organic layer was separated, and the aqueous layer was extracted three times with methylene chloride and one time with diethyl ether. The organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum to provide 11.51 g of the desired compound. The aqueous layer was concentrated to approximately half its original volume, extracted three times with methylene chloride and one time with diethyl ether. The organic extracts were combined, dried over anhydrous sodium sulfate and concentrated under vacuum as described above to provide an additional 1.15 g of the desired compound. The crude products were combined and purified by high pressure liquid chromatography to provide 9.02 g of methyl 4-(2-hydroxyethyl)-2-pyridinecarboxylate as a clear oil.

reactant | 4-[2-(acetyloxy)ethyl]-2-pyridinecarbonitrile | 0.096 mol, 18.24 g | C(C)(=O)OCCC1=CC(=NC=C1)C#N | C10H10N2O2
reactant | potassium hydroxide | 5N, 96 ml | [OH-].[K+]
reactant | methanol | 380 ml | CO | CH4O
product | Methyl 4-(2-hydroxyethyl)-2-pyridinecarboxylate | 11.51 g | OCCC1=CC(=NC=C1)C(=O)OC | C9H11NO3
